US06011031
4-[2-(Phenoxazin-10-yl)ethoxy]benzaldehyde
To a suspension of sodium hydride (60% mineral oil, 0.13 g, 3.24 mmol) in dimethyl formamide (3 ml) was added phenoxazine (0.5 g, 2.7 mmol) in dimethyl formamide (5 mL). The reaction mixture was stirred at 25° C. for 0.5 h and a solution of 4-(2-bromoethoxy)benzaldehyde (0.74 g, 3.24 mmol) in dimethyl formamide (3 mL) was added. The reaction mixture was stirred at 25° C. for 6 h. Water (25 ml) was added and the mixture was extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with water (50 ml), brine solution (50 ml) and dried (Na2SO4). The solvent was evaporated and the residue was chromatographed over silica gel using a mixture of ethyl acetate and pet. ether (3:7) as eluent to afford the title compound (0.52 g, 57%) as a syrupy liquid.

reactant | sodium hydride | 3.24 mmol, 0.13 g | [H-].[Na+]
reactant | phenoxazine | 2.7 mmol, 0.5 g | C1=CC=CC=2OC3=CC=CC=C3NC12 | C12H9NO
reactant | 4-(2-bromoethoxy)benzaldehyde | 3.24 mmol, 0.74 g | BrCCOC1=CC=C(C=O)C=C1 | C9H9BrO2
reactant | Water | 25 ml | O | H2O
solvent | dimethyl formamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-[2-(Phenoxazin-10-yl)ethoxy]benzaldehyde | 0.52 g, 57% | C1=CC=CC=2OC3=CC=CC=C3N(C12)CCOC1=CC=C(C=O)C=C1 | C21H17NO3
